US03975464
An aqueous solution of 45 parts ammonium hydroxide is stirred and chilled with an ice bath, while 24.4 parts benzyl methyl carbomethoxyphosphonate is added slowly. Stirring is continued until a clear solution is obtained. Unreacted ammonium hydroxide and water are removed from the mixture under reduced pressure, leaving as a solid residue ammonium monobenzyl carbamoylphosphonate, m.p. 186, after recrystallization from ethanol.

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | benzyl methyl carbomethoxyphosphonate | C(=O)(OC)P(OCC1=CC=CC=C1)(OC)=O | C10H13O5P
product | ammonium monobenzyl carbamoylphosphonate | C(N)(=O)P(OCC1=CC=CC=C1)([O-])=O.[NH4+] | InChI=1S/C8H10NO4P.H3N/c9-8(10)14(11,12)13-6-7-4-2-1-3-5-7;/h1-5H,6H2,(H2,9,10)(H,11,12);1H3
